Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right pleuritic chest pain and thrombocytosis
 
Major Surgical or Invasive Procedure:
___
Right pleural pigtail catheter placement

 
History of Present Illness:
The patient is a ___ y/o F who was recently hospitalised at ___
after fall from a horse on ___ with grade v liver lac and
T8-T10 rib fractures.The patient was followed conservatively and
discharged home on the ___.
The patient was doing well in the interim and on ___, she
visited her pcp who ___ her to go to the ER as she had
an elevated platelet count.She underwent a chest xray and ct 
scan
in the ED at an OSH which showed some fluid in her right lung,
according to the patient.She was then transferred to the ___
for further evaluation.
The patient says she continues to have pain over her Right lower
rib cage. She denies any fever, chills, shortness of breath, or
cough.
 

 
Past Medical History:
PMH
1. Traumaticfall ___ with Grade V liver laceration and rib 
fractures.

PSH
1. S/P ORIF right femur post MVC ___
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Temp 99.6  HR 108  BP 124/80  RR 18  O2 sat 95% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM:decreased breath sounds with crackles on RLL.
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ CXR :
Comparison is made to previous study from ___. 
  
There is a marked increase in the right-sided pleural effusion 
which extends 
to the superior apex. Small amount of aerated lung is seen 
within the right 
upper lobe. This may represent pleural fluid or hemorrhage given 
the clinical 
history. The left lung appears grossly clear. 
  
___ Chest CT :
Status post placement of a pigtail catheter at the right lung 
base with trace residual pleural effusion. Associated peripheral 
patchy 
opacity could be related to re-expansion edema, hemorrhage or 
infection. 
  
___ 9:22 am PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

 
Brief Hospital Course:
Ms. ___ was evaluated by the Trauma team in the Emergency Room 
and based on her Chest Xray and thrombocytosis she was admitted 
to the hospital for further evaluation.  Her WBC was 11K and her 
platelet count was 1712.  She was made NPO and hydrated with IV 
fluids.

On ___ a pigtail catheter was placed in the right chest by 
Interventional Radiology and 2 liters of bilious fluid was 
removed.  The Thoracic service was also consulted in case 
further surgical treatment was indicated.  The initial large 
volume of fluid tapered off immediately and over the next ___ 
hours the drainage was scant.  A repeat chest CT showed 
resolution of the effusion and minimal right lower lobe 
atelectasis. He chest tube was removed on ___ after 48 hours 
of minimal output ___ cc). Patient was discharged home with 
plans to follow up with ACS and her PCP. She understood that 
there is a small possibility of recurrence in the future. 
 
Medications on Admission:
None
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* you were admitted to the hospital after your primary care 
doctor noted am elevated platelet count which could be 
indicative of infection.  you also had persistent right sided 
pleuritic pain.
* A chest CT documented a fluid collection which needed to be 
drained.
The drainage consisted of bile likely from your recent liver 
laceration..
* The drainage has been scant therefore the chest tube was 
removed.  As discussed with Dr. ___, there is a chance that the 
fluid could reaccumulate which would require placement of 
another chest tube but we are hoping that will not be the case.
* You should continue to eat a regular diet and stay well 
hydrated.
* Take your temperature twice daily for the next week.  If it is 
greater than ___ you should return to the Emergency Room.  If 
you have any increased pain, shortness of breath, fevers, chills 
or anything that concerns you please call your doctor or return 
to the Emergency Room.
* You will take one baby aspirin daily until your follow up 
appointment then further treatment will be discussed.
 
Followup Instructions:
___